US07060827B2
The hydrogenation of methyl 2-hydroxy-5-nitrobenzoate (700 mg, 3.3 mmol) using 10% Pd—C (100 mg) and Na2SO4 (100 mg) in MeOH at 50 psi gave methyl 5-amino-2-methoxybenzoate (600 mg).

reactant | methyl 2-hydroxy-5-nitrobenzoate | 3.3 mmol, 700 mg | OC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H7NO5
reactant | Na2SO4 | 100 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | MeOH | CO | CH4O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | methyl 5-amino-2-methoxybenzoate | 600 mg | NC=1C=CC(=C(C(=O)OC)C1)OC | C9H11NO3
